US07282494B2
1-(5-Iodo-3-pyridyl)-4-tert-butoxycarbonyl-homopiperazine (Compound 2J5)
A mixture of Iodomono chloride (588 mg, 3.6 mmol) and anhydrous dichloromethane (10 ml) was added to a mixture of 1-(5-trimethylstannyl-3-pyridyl)-4-tert-butoxycarbonyl-homopiperazine (1.45 g, 3.3 mmol) and dichloromethane (30 ml). The mixture was stirred at room temperature for 1 hours. Aqueous sodium hydroxide (25 ml, 1 M) was added. The organic phase was separated. The aqueous phase was extracted with dichloromethane (25 ml). The combined organic phases was purified by chromatography on silica gel with dichloromethane and methanol (19:1) The title compound was isolated as an oil. Yield 0.80 g, 60%.

reactant | Iodomono chloride | 3.6 mmol, 588 mg | ICl | ClI
reactant | 1-(5-trimethylstannyl-3-pyridyl)-4-tert-butoxycarbonyl-homopiperazine | 3.3 mmol, 1.45 g | C[Sn](C=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C)(C)C
reactant | sodium hydroxide | 1 M, 25 ml | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(5-Iodo-3-pyridyl)-4-tert-butoxycarbonyl-homopiperazine | IC=1C=C(C=NC1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22IN3O2
